US09102616B2
(11) Synthesis of 3-Bromo-N2,N2,N5,N5-tetra(naphthalen-2-yl)thiophene-2,5-diamine
23.7 g of a product (yield: 68%) was obtained in the same manner as described in the synthesis method of 2-1 except that 2,3,5-tribromothiophene (16.04 g, 50 mmol), dinaphthalen-2-ylamine (26.94 g, 100 mmol), Pd2(dba)3 (2.75 g, 3 mmol), PPh3 (2.62 g, 10 mmol), NaOt-Bu (28.83 g, 300 mmol), and toluene (525 mL) were used.

reactant | 2,3,5-tribromothiophene | 50 mmol, 16.04 g | BrC=1SC(=CC1Br)Br | C4HBr3S
reactant | dinaphthalen-2-ylamine | 100 mmol, 26.94 g | C1=C(C=CC2=CC=CC=C12)NC1=CC2=CC=CC=C2C=C1 | C20H15N
reactant | PPh3 | 10 mmol, 2.62 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NaOt-Bu | 300 mmol, 28.83 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 3 mmol, 2.75 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 525 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-N2,N2,N5,N5-tetra(naphthalen-2-yl)thiophene-2,5-diamine | BrC1=C(SC(=C1)N(C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1)N(C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1 | C44H29BrN2S
